US08791288B2
By following a procedure analogous to that described in Organic Syntheses, Collective Volume 5, p 539, using 81.2 g of spiro[4.5]decane-7,9-dione instead of dihydroresorcinol and isobutyl alcohol instead of ethyl alcohol, a corresponding isobutyl enol ether was prepared. It was purified by silica gel chromatography, obtaining 9-isobutyloxyspiro[4.5]dec-8-en-7-one in a yield of 56%.

reactant | spiro[4.5]decane-7,9-dione | 81.2 g | C1CCCC12CC(CC(C2)=O)=O | C10H14O2
solvent | isobutyl alcohol | C(C(C)C)O | C4H10O
product | 9-isobutyloxyspiro[4.5]dec-8-en-7-one | yield of 56% | C(C(C)C)OC1=CC(CC2(CCCC2)C1)=O | C14H22O2
